US04625047
To a stirred solution of sodium methoxide (3.5 g, 0.065 mole) in ethanol (100 ml) and ethyl-2-methylacetoacetate (6.6 ml) was added [2,3-dichloro-4-(3-dimethylamino-1-oxopropyl)phenoxy]acetic acid hydrochloride (7.4 g, 0.021 mole). The reaction mixture was heated at reflux for 3 hours then the solvent was distilled at reduced pressure, treated with 100 ml of 2% sodium hydroxide, heated on a steam bath for 11/2 hours, then acidified, extracted with ether, washed with water, dried over magnesium sulfate and evaporated at reduced pressure. The residue was triturated with 100 ml of hot toluene, filtered, and dried to give 0.9 of [2,3-dichloro-4-(4-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melted at 183°-185° C. after recrystallization from 30 ml of toluene.

reactant | sodium methoxide | 0.065 mole, 3.5 g | C[O-].[Na+]
reactant | [2,3-dichloro-4-(3-dimethylamino-1-oxopropyl)phenoxy]acetic acid hydrochloride | 0.021 mole, 7.4 g | Cl.ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(CCN(C)C)=O
reactant | ethyl-2-methylacetoacetate | 6.6 ml | C(C)OC(C(C(=O)C)C)=O | C7H12O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(4-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(C(CC1)C)=O | C15H14Cl2O4
